US05244908
(1) Synthesis of 5-[2-(methylcarbamoyloxy)ethylthio]imidazo[1,2-a]pyridine (Compound 118)
To a solution of 5-[2-(hydroxy)ethylthio]imidazo[1,2-a]pyridine (971 mg, 5 mmoles) and trietylamine (0.91 ml, 6.53 mmoles) in methylene chloride (40 ml) was added methyl isocyanate (0.65 ml, 11 mmoles) under ice-cooling with stirring and the mixture was stirred at room temperature for 12 hours. The reaction mixture was washed with saturated saline and dried over anhydrous magnesium sulfater. After the solvent was distilled off, the residue was purified by column chromatography (eluent: methanol/chloroform=1:20) to obtain 1.07 g of the desired product (85.2%, colorless crystals).

reactant | 5-[2-(hydroxy)ethylthio]imidazo[1,2-a]pyridine | 5 mmoles, 971 mg | OCCSC1=CC=CC=2N1C=CN2 | C9H10N2OS
reactant | trietylamine | 6.53 mmoles, 0.91 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 11 mmoles, 0.65 ml | CN=C=O | C2H3NO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 5-[2-(methylcarbamoyloxy)ethylthio]imidazo[1,2-a]pyridine | 1.07 g, 85.2% | CNC(=O)OCCSC1=CC=CC=2N1C=CN2 | C11H13N3O2S
